US05578627
To 20 ml of a 2-propanol solution of 1.59 of 3-(2-amino-2-methylpropoxy)-5-chloro-1,2-benzoisoxazole is added 20 ml of a dioxane solution (7.5N) of hydrogen chloride, and the crystals precipitated are collected by filtration, to obtain 1.62 g of colorless, crystalline 3-(2-amino-2-methylpropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 245.0°-246.0° C.

reactant | 2-propanol | 20 ml | CC(C)O | C3H8O
reactant | 3-(2-amino-2-methylpropoxy)-5-chloro-1,2-benzoisoxazole | NC(COC1=NOC2=C1C=C(C=C2)Cl)(C)C | C11H13ClN2O2
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 7.5N, 20 ml | O1CCOCC1 | C4H8O2
product | 3-(2-amino-2-methylpropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)(C)C | InChI=1S/C11H13ClN2O2.ClH/c1-11(2,13)6-15-10-8-5-7(12)3-4-9(8)16-14-10;/h3-5H,6,13H2,1-2H3;1H
